US07855225B2
To a solution of 0.41 g of 1-[(4-bromophenyl)sulfonyl]-1H-indole-2-carbaldehyde in 3 mL of pyridine, 0.35 g of malonic acid and 0.02 mL of piperidine were added, and the resulting mixture was stirred at 80° C. for 3 hours. After the solution was allowed to cool, 50 mL of water and concentrated hydrochloric acid were added to adjust the pH to pH3, and the precipitated solid was collected by filtration and washed with ethanol to obtain 0.29 g of (2E)-3-{1-[(4-bromophenyl)sulfonyl]-1H-indol-2-yl} acrylic acid as a pale yellow solid.

reactant | 1-[(4-bromophenyl)sulfonyl]-1H-indole-2-carbaldehyde | 0.41 g | BrC1=CC=C(C=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C=O | C15H10BrNO3S
reactant | malonic acid | 0.35 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.02 mL | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 50 mL | O | H2O
product | (2E)-3-{1-[(4-bromophenyl)sulfonyl]-1H-indol-2-yl} acrylic acid | 0.29 g | BrC1=CC=C(C=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)/C=C/C(=O)O | C17H12BrNO4S
